US04322428
2-(4-Fluorophenyl)-4,5-bis(4-methoxyphenyl)thiazole
Three ml. of concentrated sulfuric acid, 250 ml. of dioxane, 27.2 g. (0.10 mole) of anisoin, and 15.5 g. (0.10 mole) of 4-fluorothiobenzamide were placed in a round bottom flask. The mixture was stirred at reflux for 3 days, then cooled to room temperature, and poured onto ice. Then the mixture was extracted with ethyl acetate, washed with water, and dried over sodium sulfate. After the ethyl acetate was evaporated, a crude solid of 35 g. remained. The solid was then recrystallized from ethyl acetate and weighed 27.5 g. (70% yield). It had a melting point of about 140°-141.5° C. and the mass spectrum showed the expected molecular ion at m/e=391.

reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | anisoin | 0.10 mole | C1(=CC=C(OC)C=C1)C(=O)C(O)C1=CC=C(OC)C=C1 | C16H16O4
reactant | 4-fluorothiobenzamide | 0.10 mole | FC1=CC=C(C(=S)N)C=C1 | C7H6FNS
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 2-(4-Fluorophenyl)-4,5-bis(4-methoxyphenyl)thiazole | 70% yield | FC1=CC=C(C=C1)C=1SC(=C(N1)C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC | C23H18FNO2S
